US07488789B2
(1) Synthesis of 3-tert-butyl-1-methy-6,6-di-(p-tolyl)fulvene
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 1.56 g of powdery potassium hydroxide (27.8 mmol) and 100 ml of dehydrated dimethoxy ethane were added in a nitrogen atmosphere. To the suspension, 2.46 g of 3-tert-butyl-1-methyl-cyclopentadiene (18.0 mmol) was gradually added dropwise at room temperature and stirred under reflux for 2 hr. To the reaction solution, a solution prepared by dissolving 3.99 g of 4,4′-dimethylbenzophenone (19.0 mmol) in 40 ml of dehydrated dimethoxy ethane was gradually added and stirred under reflux for 3 days. To the reaction mixture, 50 ml of a hydrochloric acid aqueous solution (1N) was gradually added dropwise in an ice bath, and stirred at room temperature for some time. The organic phase was separated by adding diethyl ether and washed with a saturated sodium bicarbonate aqueous solution, water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, and thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a dark red liquid. The liquid was purified by a column chromatography using 170 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure, and thereby the aimed compound was obtained in an amount of 2.55 g (7.76 mmol) as a red solid (yield: 43%)

reactant | potassium hydroxide | 27.8 mmol, 1.56 g | [OH-].[K+]
reactant | 3-tert-butyl-1-methyl-cyclopentadiene | 18.0 mmol, 2.46 g | C(C)(C)(C)C=1C=C(CC1)C | C10H16
reactant | 4,4′-dimethylbenzophenone | 19.0 mmol, 3.99 g | CC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C15H14O
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | dimethoxy ethane | 40 ml | C(OC)COC | C4H10O2
solvent | dimethoxy ethane | 100 ml | C(OC)COC | C4H10O2
product | 3-tert-butyl-1-methy-6,6-di-(p-tolyl)fulvene | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C25H28
